US04639518
5,6-Dimethoxyquinazoline-1-propionic acid-2,4(1H, 3 H)-dione
6-Amino-3,4-dimethoxybenzoic acid (5.5 g, 27.8 m) in glacial acetic acid (100 ml) and acrylic acid (4 ml) was refluxed for 18 hours. Potassium cyanate (5.6 g, 28.4 mM) in H2O (132 ml) was added gradually and stirred for 2 hours at 60° C. After cooling the reaction mixture to 20° C., sodium hydroxide pellets (40 g, 1.0 mole) were added while maintaining the temperature below 60° C. The reaction mixture was then heated at 90° C. for 45 minutes. Upon cooling in an ice bath, the sodium salt of the product precipitated, was filtered, resuspended in H2O (60 ml), acidified (pH 3.0) with concentrated HCl, cooled, and filtered to give the crude product. Trituration with warm isopropanol afforded 2.2 g (25.6%) of the desired product which melted at 226°-228° C.

reactant | 6-Amino-3,4-dimethoxybenzoic acid | 5.5 g | NC1=CC(=C(C=C1C(=O)O)OC)OC | C9H11NO4
reactant | Potassium cyanate | 28.4 mM, 5.6 g | [O-]C#N.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | acrylic acid | 4 ml | C(C=C)(=O)O | C3H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | H2O | 132 ml | O | H2O
product | 5,6-Dimethoxyquinazoline-1-propionic acid | 2.2 g, 25.6% | COC1=C2C=NCN(C2=CC=C1OC)CCC(=O)O | C13H16N2O4
